US04113940
A solution of 2-methyl-7-[3-(tert.-butoxycarbonylamino)-3-(2-thienyl)propionamido]-3-cephem-4-carboxylic acid (310 mg) in formic acid (1.5 ml) was stirred for 4 hours at room temperature. After the reaction was completed, the solvent was distilled off from the reaction mixture, and the residue was pulverized by treating with ethyl acetate. Thus obtained yellow powder was suspended in a mixture of acetonitrile (10 ml) and water (3 ml), and the suspension was stirred for 1 hour. The precipitate was collected by filtration, and dried to give 2-methyl-7-[3-amino-3-(2-thienyl)propionamido]-3-cephem-4-carboxylic acid (180 mg), mp 218° to 221° C. (dec.).

reactant | 2-methyl-7-[3-(tert.-butoxycarbonylamino)-3-(2-thienyl)propionamido]-3-cephem-4-carboxylic acid | 310 mg | CC1S[C@H]2N(C(=C1)C(=O)O)C(C2NC(CC(C=2SC=CC2)NC(=O)OC(C)(C)C)=O)=O | C20H25N3O6S2
solvent | formic acid | 1.5 ml | C(=O)O | CH2O2
product | 2-methyl-7-[3-amino-3-(2-thienyl)propionamido]-3-cephem-4-carboxylic acid | 180 mg | CC1S[C@H]2N(C(=C1)C(=O)O)C(C2NC(CC(C=2SC=CC2)N)=O)=O | C15H17N3O4S2
